US08580794B2
3-(4-(aminomethyl)phenoxy)-N,N-dimethylpropan-1-amine
4-(3-(Dimethylamino)propoxy)benzonitrile (300 mg) in methanol (20 mL) was treated with Raney nickel (wet, 1.5 g) under H2 (30 psi) for 4 hour. The insoluble material was filtered off and the filtrate was concentrated to provide the title compound.

reactant | 4-(3-(Dimethylamino)propoxy)benzonitrile | 300 mg | CN(CCCOC1=CC=C(C#N)C=C1)C | C12H16N2O
solvent | methanol | 20 mL | CO | CH4O
catalyst | Raney nickel | 1.5 g | [Ni] | Ni
product | 3-(4-(aminomethyl)phenoxy)-N,N-dimethylpropan-1-amine | NCC1=CC=C(OCCCN(C)C)C=C1 | C12H20N2O
